US06136823
Synthesis of 1-(5-Tert-butoxycarbonylamino-2,4-difluorophenyl)-6,7-difluoro-8-ethynyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Ethyl 1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-6,7-difluoro-8-(trimethylsilylethynyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate (750 mg) was dissolved in tetrahydrofuran (6 ml). 1N Sodium hydroxide (2 ml) was added to this solution, and the mixture was stirred overnight at room temperature. After the reaction mixture was acidified with citric acid and then extracted with chloroform. An organic layer was dried over anhydrous magnesium sulfate, and the solvent was then distilled off under reduced pressure to obtain the title compound (240 mg) as a colorless powder.

reactant | Ethyl 1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-6,7-difluoro-8-(trimethylsilylethynyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 750 mg | C(C)(C)(C)OC(=O)NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C#C[Si](C)(C)C)F)F)=O)C(=O)OCC)F)F | C28H28F4N2O5Si
reactant | Sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 1-(5-Tert-butoxycarbonylamino-2,4-difluorophenyl)-6,7-difluoro-8-ethynyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 240 mg | C(C)(C)(C)OC(=O)NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C#C)F)F)=O)C(=O)O)F)F | C23H16F4N2O5
